US06638954B2
In the method of preparation, the reaction between the N-vinylpyrrolidinone and the phenyl azide is carried out at room temperature in ethanol as solvent, and allowed to stand in the dark for several weeks, depending on the reactivity of the phenyl azides. Refluxing the reaction mixture eliminates the 5-(2-oxo-1-pyrrolidino) group and yields the 1-phenyl triazole.

reactant | N-vinylpyrrolidinone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | phenyl azide | C1(=CC=CC=C1)N=[N+]=[N-] | C6H5N3
solvent | ethanol | C(C)O | C2H6O
product | 1-phenyl triazole | C1(=CC=CC=C1)N1N=NC=C1 | C8H7N3
